US06251926B1
After a mixture of 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine (1.00 g), 4-oxo-4-phenylbutanamide (571 mg), acetic acid (0.553 ml), sodium acetate (528 mg) and ethanol (20 ml) was heated to reflux for 10 hours, the mixture was cooled to room temperature. Water was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography and concentrated a portion from an ethyl acetate-hexane (3:1, v/v)-eluted fraction which eluted following the E- compound, to obtain crystals. The crystals were recrystallized from ethanol to obtain Z-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutanamide (120 mg, yield 8%) as colorless crystals. m.p. 110-112° C.

reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyamine | 1.00 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CON)C=C1 | C18H18N2O3
reactant | 4-oxo-4-phenylbutanamide | 571 mg | O=C(CCC(=O)N)C1=CC=CC=C1 | C10H11NO2
reactant | acetic acid | 0.553 ml | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 528 mg | C(C)(=O)[O-].[Na+]
solvent | Water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Z-4-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutanamide | 120 mg, yield 8% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(\CCC(=O)N)/C2=CC=CC=C2)C=C1 | C28H27N3O4
